US06747024B1
16.1) 3-(4-anilinoanilino)dihydro-2(3H)-furanone
A mixture of 1.84 g (10 mmoles) of N1-phenyl-1,4-benzenediamine and 0.41 ml (5 mmoles) of α-bromo-γ-butyrolactone in 20 ml of acetonitrile is heated under reflux for 5 hours. After returning to 20° C., the precipitate which appears during the reaction (N1-phenyl-1,4-benzenediamine hydrobromide) is filtered and rinsed with 20 ml of acetonitrile. The filtrate is concentrated to dryness under vacuum and the residue is purified on a silica column (eluent: Heptane/AcOEt: 1/1 to 4/6). Beige powder. Melting point: 142.5-143° C.

reactant | N1-phenyl-1,4-benzenediamine | 10 mmoles, 1.84 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | α-bromo-γ-butyrolactone | 5 mmoles, 0.41 ml | BrC1C(=O)OCC1 | C4H5BrO2
reactant | N1-phenyl-1,4-benzenediamine hydrobromide | Br.C1(=CC=CC=C1)NC1=CC=C(C=C1)N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-(4-anilinoanilino)dihydro-2(3H)-furanone | N(C1=CC=CC=C1)C1=CC=C(NC2C(OCC2)=O)C=C1 | C16H16N2O2
